US04868061
A solution of 0.1 mol of p-aminobenzaldehyde ethylene glycol acetal in 100 mL of anhydrous THF is added dropwise over 10 minutes to a solution of 0.1mol glycine methyl ester isocyanate and 0.35 mol pyridine in 100 mL THF at room temperature under N2. The yellow reaction mixture is stirred at room temperature for 2 hours. After 1/2 hour a yellow-orange precipitate begins to form. After 2 hours the solvent is removed by rotary evaporator to give an orange, semisolid mass. A solution of 0.11 mmol hydroxylamine hydrochloride and 0.1 mol trimethyl orthoformate in CH3OH is added, and the reaction mixture is heated to reflux under N2 for 1 hour. Thereaction mixture is reduced to about 1/4 volume by rotary evaporator, and water is added. Pale yellow crystals of product form, which are isolated by filtration and dried overnight in a vacuum oven at 50°-55° C. The yield of crude product (mp 158°-161° C.): 70-75 %. The product is purified by recrystallization from a 10:6:1 solution of CH3OH:H2 0:compound. The product is washed with cold water and dried in a vacuum oven at 50° C. to give off-white crystals of N-[4-hydroxyiminomethyl)phenyl]-N'-methoxycarbonylmethylurea, mp. 167.5°-168.5° C. Elemental analysis: calcd. C 52.59, H 5.22,N 16.72; found C 52.38, H 5.16, N 16.65. 1H NMR (acetone-d6): δ10.15 s, 1H, --NOH; 8.4 s, 1H, --NH; 8.1 s/d, 1H, --CH=N; 7.55 bs, 4H, phenyl; 6.21 s/d, 1H, --NH--; 4.02 s/d, 2H, --CH2 --; 3.74 s,3H, CH3O--. 13C NMR (acetone-d6): δ172, --COO--; 156, --NCON--; 149, --CH;50 N--; 119, 128, 142, phenyl; 52, CH3O--; 42, --CH2 --. UV-vis (CH3OH): λmax =279 nm, ε=2.90×104.

reactant | glycine methyl ester isocyanate | 0.1mol | [N-]=C=O.COC(CN)=O
reactant | pyridine | 0.35 mol | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 0.11 mmol | Cl.NO
reactant | trimethyl orthoformate | 0.1 mol | C(OC)(OC)OC | C4H10O3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | CH3OH | CO | CH4O
product | N'-methoxycarbonylmethylurea | COC(=O)CNC(N)=O | C4H8N2O3
